*LELO_VCO tuning-curve testbench -- POST-LAYOUT (extracted parasitics)
*----------------------------------------------------------------
* Sweeps the control voltage Vin and, at each point, runs a transient
* and measures the oscillation frequency from Vout's rising edges.
* Produces vco_tuning_lay.dat (columns: Vin[V]  fout[Hz]).
* Run with:  ngspice -b sweep.spi     (see Makefile target `make sweep_lay`)
*----------------------------------------------------------------

*----------------------------------------------------------------
* Include DUT netlist
*----------------------------------------------------------------
.include ../../work/lpe/LELO_VCO_lpe.spi

*----------------------------------------------------------------
* Models (typical corner, room temperature)
*----------------------------------------------------------------
.lib "$PDK_ROOT/sky130A/libs.tech/ngspice/sky130.lib.spice" tt
.temp 27
.option TNOM=27 GMIN=1e-15 reltol=1e-3

.param AVDD=1.8

*----------------------------------------------------------------
* Force
*----------------------------------------------------------------
VSS VSS 0        dc 0
VDD VDD_1V8 VSS  pwl 0 0 10n {AVDD}
VIN Vin VSS      dc 0.9

*----------------------------------------------------------------
* DUT
*----------------------------------------------------------------
XDUT VDD_1V8 VSS Vin Vout LELO_VCO

*----------------------------------------------------------------
* NGSPICE control: Vin sweep
*----------------------------------------------------------------
.control
  set num_threads=8
  unset askquit

  * Vin from 0.30 V to 1.80 V in 0.10 V steps.
  * For each point: run a transient, then measure the oscillation
  * frequency over 5 periods (skipping the first cycles for startup).
  * Emits one "RESULT <Vin> <fout_Hz>" line per point; the Makefile
  * captures these into vco_tuning_lay.dat.  Points that do not oscillate
  * simply produce no frequency and are dropped downstream.
  foreach vv 0.30 0.40 0.50 0.60 0.70 0.80 0.90 1.00 1.10 1.20 1.30 1.40 1.50 1.60 1.70 1.80
    alter @VIN[dc] = $vv
    tran 20p 3u
    let t1 = 0
    let t2 = 0
    meas tran t1 WHEN v(Vout)=0.9 RISE=3
    meas tran t2 WHEN v(Vout)=0.9 RISE=8
    let fosc = 5/(t2-t1)
    echo "RESULT $vv" $&fosc
  end
  quit
.endc

.end
